US04374143
A solution of 144 g. of 4-n-butylphenylisothiocyanate in 800 ml of acetonitrile is added dropwise in 30 minutes at room temperature to a solution of 95 ml of 1,3-diaminopropane in 450 ml of acetonitrile, while solution is stirred. After 1 hour, 260 ml of triethylamine are added. A solution of 212 g of mercurychloride in 560 ml of acetonitrile is then added while stirring said solution for 1 hour. The reaction mixture is stirred for another 24 hours and then filtered while warm. The solvent is distilled from the filtrate and the residue is mixed with up in methylene chloride and washed with dilute alkaline solution and water. After drying, the methylene chloride is distilled off, the crude 2-(4-n-butylphenyl)iminohexahydropyrimidine being obtained in a yield of 165 g. The product can be purified by a recrystallisation from a mixture of carbon tetrachloride and petroleum ether. A product is obtained with a melting point of 116°-119° C. The product may also be purified by dissolving it in approximately 20% hydrochloric acid, washing the aqueous phase with ether and then making it alkaline again. The thus purified 2-(4-n-butylphenyl)imino-hexahydropyrimidine can be isolated by taking up in ether, drying and distilling the solvent. The thus purified product also has a melting point of 116°-119° C.

reactant | 4-n-butylphenylisothiocyanate | C(CCC)C1=CC=C(C=C1)N=C=S | C11H13NS
reactant | 1,3-diaminopropane | 95 ml | NCCCN | C3H10N2
reactant | triethylamine | 260 ml | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 800 ml | C(C)#N | C2H3N
solvent | acetonitrile | 450 ml | C(C)#N | C2H3N
solvent | acetonitrile | 560 ml | C(C)#N | C2H3N
catalyst | mercurychloride | 212 g | [Hg]Cl
product | 2-(4-n-butylphenyl)imino-hexahydropyrimidine | C(CCC)C1=CC=C(C=C1)N=C1NCCCN1 | C14H21N3
